US04883802
62.8 g of N-benzyloxycarbonyl glycine was dissolved in 1000 ml of tetrahydrofuran and the solution was cooled to -15° C., to which 42.3 g of isobutyl chloroformate and then 31.0 g of triethylamine were added dropwise at -15° to -5° C. and stirrd at -10° to -5° C. for 15 minutes. Next, 38.5 g of 4-piperidinecarboxamide was added while maintaining the temperature at -10° to -5° C. The reaction liquid was allowed to stand so as to rise its temperature to room temperature over 2 hours. The insoluble solid was filtered off. This solid was suspended in 500 ml of water, the suspension was stirred for 30 minutes and then the insoluble solid was filtered off. The wet solid was dissolved in 700 ml of ethanol with warming and the solution was concentrated to 200 ml at atmospheric pressure. After the concentrate was allowed to cool, 64.8 g of 1-(N-benzyloxycarbonylglycyl)-4-piperidinecarboxamide having the melting point of 164° to 166° C. was obtained. This was dissolved in 950 ml of methanol and 7 g of 5 % palladium on carbon was added thereto followed by subjecting to the catalytic hydrogenation while introducing hydrogen gas at room temperature. After 4 hours, the catalyst was filtered off and the reaction solution was concentrated to 100 ml. 250 ml of ethyl acetate was added and again the resultant solution was concentrated to 150 ml and allowed to cool so as to obtain the precipitate, which was filtered to obtain the titled compound.

reactant | N-benzyloxycarbonyl glycine | 62.8 g | C(C1=CC=CC=C1)OC(=O)NCC(=O)O | C10H11NO4
reactant | isobutyl chloroformate | 42.3 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | triethylamine | 31.0 g | C(C)N(CC)CC | C6H15N
reactant | 4-piperidinecarboxamide | 38.5 g | N1CCC(CC1)C(=O)N | C6H12N2O
solvent | tetrahydrofuran | 1000 ml | O1CCCC1 | C4H8O
product | 1-(N-benzyloxycarbonylglycyl)-4-piperidinecarboxamide | 64.8 g | C(C1=CC=CC=C1)OC(=O)NCC(=O)N1CCC(CC1)C(=O)N | C16H21N3O4
